US07276516B2
4-(3-Cyclopropyl-indole-1-sulfonyl)-N-(4-fluoro-benzyl)-benzamide
Combine N-(4-fluoro-benzyl)-4-(3-iodo-indole-1-sulfonyl)-benzamide (0.50 g, 0.94 mmol), cyclopropylboronic acid (0.24 g, 2.8 mmol), tricyclohexylphosphine (0.05 g, 0.18 mmol), potassium phosphate (0.70 g, 3.30 mmol), and palladium acetate (0.02 g, 0.09 mmol) in a mixture of toluene (15 mL) and water (0.4 mL). Heat to 100° C. under nitrogen for 18 hours, filter through celite, and wash solids with EtOAc. Wash EtOAc with saturated NaHCO3 (30 mL), then dry with Na2SO4, and concentrate under vacuum. Purify by flash column on silica gel eluting with 0-50% EtOAc in hexanes to give the title compound (0.25 g, 60%). MS (ES) 449.2 (M+1)+, 447.4 (M−1)−.

reactant | N-(4-fluoro-benzyl)-4-(3-iodo-indole-1-sulfonyl)-benzamide | 0.94 mmol, 0.50 g | FC1=CC=C(CNC(C2=CC=C(C=C2)S(=O)(=O)N2C=C(C3=CC=CC=C23)I)=O)C=C1 | C22H16FIN2O3S
reactant | cyclopropylboronic acid | 2.8 mmol, 0.24 g | C1(CC1)B(O)O | C3H7BO2
reactant | tricyclohexylphosphine | 0.18 mmol, 0.05 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | potassium phosphate | 3.30 mmol, 0.70 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.4 mL | O | H2O
catalyst | palladium acetate | 0.09 mmol, 0.02 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-(3-Cyclopropyl-indole-1-sulfonyl)-N-(4-fluoro-benzyl)-benzamide | 0.25 g, 60% | C1(CC1)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C(=O)NCC2=CC=C(C=C2)F)C=C1 | C25H21FN2O3S
